US06090812
A stirred solution of the crude 2-phenyl-6-methyl-pyridine-N-oxide (5.2 g, 28.5 mmol) in Ac2O (25 ml) was heated at reflux temperature for 2 hrs. The Ac2O was removed with the aid of an oil pump (10 mm) at 40° C. to yield a red oil which was purified by flash chromatography over silica gel with Et2O/petroleum benzine=1/1 as the eluent and yielded 2-phenyl-6-(acetoxymethyl)-pyridine (4.6 g, 70%) as an oil.

reactant | 2-phenyl-6-methyl-pyridine-N-oxide | 28.5 mmol, 5.2 g | C1(=CC=CC=C1)C1=[N+](C(=CC=C1)C)[O-] | C12H11NO
reactant | Ac2O | 25 ml | CC(=O)OC(=O)C | C4H6O3
product | 2-phenyl-6-(acetoxymethyl)-pyridine | 4.6 g, 70% | C1(=CC=CC=C1)C1=NC(=CC=C1)COC(C)=O | C14H13NO2
